US07777047B2
ethyl 5-(2-methoxyethoxy)-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylate
To a solution of ethyl 7-amino-5-(2-methoxyethoxy)-1H-indole-2-carboxylate (5.80 g) in pyridine (100 mL) was added pyridine-2-sulfonyl chloride monohydrochloride (14.0 g), and the mixture was stirred overnight at room temperature. The solvent was evaporated under reduced pressure, and the residue was dissolved in ethyl acetate. The ethyl acetate layer was washed with 1M hydrochloric acid, saturated aqueous sodium hydrogencarbonate and saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to give the title compound (5.70 g, yield 65%) as a colorless amorphous solid from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). MS: 420 (MH+).

reactant | ethyl 7-amino-5-(2-methoxyethoxy)-1H-indole-2-carboxylate | 5.80 g | NC=1C=C(C=C2C=C(NC12)C(=O)OCC)OCCOC | C14H18N2O4
reactant | pyridine-2-sulfonyl chloride monohydrochloride | 14.0 g | Cl.N1=C(C=CC=C1)S(=O)(=O)Cl
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 5-(2-methoxyethoxy)-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylate | 5.70 g, yield 65% | COCCOC=1C=C2C=C(NC2=C(C1)NS(=O)(=O)C1=NC=CC=C1)C(=O)OCC | C19H21N3O6S
